US07696234B2
4-[4-(2-(S)-Pyrrolidin-1-ylmethyl-pyrrolidine-1-carbonyl)-phenoxymethyl]-benzoic acid methyl ester
The title compound is prepared in a manner substantially analogous to Procedure B using (4-Hydroxy-phenyl)-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone and methyl 4-(bromomethyl)benzoate. MS (ES+) 423.3

reactant | (4-Hydroxy-phenyl)-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone | OC1=CC=C(C=C1)C(=O)N1[C@@H](CCC1)CN1CCCC1 | C16H22N2O2
reactant | methyl 4-(bromomethyl)benzoate | BrCC1=CC=C(C(=O)OC)C=C1 | C9H9BrO2
product | 4-[4-(2-(S)-Pyrrolidin-1-ylmethyl-pyrrolidine-1-carbonyl)-phenoxymethyl]-benzoic acid methyl ester | COC(C1=CC=C(C=C1)COC1=CC=C(C=C1)C(=O)N1[C@@H](CCC1)CN1CCCC1)=O | C25H30N2O4
